US06627651B1
To methyl 3-(4-methylbenzyloxy)-5-oxo-6,7,8,9-tetrahydro-5H-benzocycloheptene-6-carboxylate (2.77 g, 8.19 mmol) dissolved in a mixed solvent of dichloromethane (40 ml) and methanol (10 ml) was added at −40° C. (inner temperature) sodium borohydride (465 mg, 12.3 mmol), and the resulting mixture was stirred at −20° C. to −10° C. for 2 hours. The reaction mixture was cooled to −40° C., was mixed with water (20 ml) and extracted with dichloromethane (40 ml, 10 ml×2). The combined organic layers were dried with anhydrous magnesium sulfate and were then concentrated under reduced pressure. To the residue dissolved in THF (30 ml) were added at 0° C. triethylamine (5.70 ml, 40.9 mmol) and methanesulfonyl chloride (0.95 ml, 12.3 mmol), and the resulting mixture was stirred at room temperature for 12 hours. In order to complete the reaction, DBU (3.67 ml, 24.5 mmol) and dichloromethane (30 ml) were added, and the resulting mixture was stirred at room temperature for 3 hours. The reaction mixture was concentrated under reduced pressure, was mixed with water (30 ml) and was extracted with ethyl acetate (30 ml×3). The combined organic layers were washed with 1 N hydrochloric acid (5 ml×3), were dried with anhydrous magnesium sulfate and were then concentrated under reduced pressure, and the residue was subjected to column chromatography (silica gel: 60 g, ethyl acetate/hexane=1/30→1/9). The objective fractions were concentrated under reduced pressure to obtain methyl 2-(4-methylbenzyloxy)-6,7-dihydro-5H-benzocycloheptene-8-carboxylate (2.40 g, 7.44 mmol, 91%).

reactant | methyl 3-(4-methylbenzyloxy)-5-oxo-6,7,8,9-tetrahydro-5H-benzocycloheptene-6-carboxylate | 8.19 mmol, 2.77 g | CC1=CC=C(COC2=CC3=C(CCCC(C3=O)C(=O)OC)C=C2)C=C1 | C21H22O4
reactant | sodium borohydride | 12.3 mmol, 465 mg | [BH4-].[Na+]
reactant | triethylamine | 40.9 mmol, 5.70 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 12.3 mmol, 0.95 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | DBU | 24.5 mmol, 3.67 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | methanol | 10 ml | CO | CH4O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | water | 20 ml | O | H2O
product | methyl 2-(4-methylbenzyloxy)-6,7-dihydro-5H-benzocycloheptene-8-carboxylate | 7.44 mmol, 2.40 g, 91% | CC1=CC=C(COC=2C=CC3=C(C=C(CCC3)C(=O)OC)C2)C=C1 | C21H22O3
